** sch_path: /foss/designs/ldo_project/ldo_chip.sch
.subckt ldo_chip_brk vdd vbias vref vldo load_en vss fbtop_x
*.ipin vdd
*.ipin vss
*.ipin vref
*.opin vldo
*.ipin load_en
*.ipin vbias
XM1 net1 vref net2 vss sky130_fd_pr__nfet_01v8 L=0.5 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0 sd=0
+ mult=1
XM2 vout1 vfb net2 vss sky130_fd_pr__nfet_01v8 L=0.5 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0 sd=0
+ mult=1
XM3 net1 net1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.5 W=5 nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0
+ mult=1
XM4 vout1 net1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.5 W=5 nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0
+ mult=1
XM5 net2 vbias vss vss sky130_fd_pr__nfet_01v8 L=1 W=5 nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0
+ mult=1
XM6 vbias vbias vss vss sky130_fd_pr__nfet_01v8 L=1 W=5 nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0
+ mult=1
XM7 vout2 vout1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.5 W=60 nf=1 ad=17.4 as=17.4 pd=120.58 ps=120.58 nrd=0.00483333333333333
+ nrs=0.00483333333333333 sa=0 sb=0 sd=0 mult=1
XM8 vout2 vbias vss vss sky130_fd_pr__nfet_01v8 L=1 W=30 nf=1 ad=8.7 as=8.7 pd=60.58 ps=60.58 nrd=0.00966666666666667
+ nrs=0.00966666666666667 sa=0 sb=0 sd=0 mult=1
XMp vldo vgate vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2000 nf=400 ad=290 as=291.45 pd=2116 ps=2126.58 nrd=0.000145 nrs=0.000145
+ sa=0 sb=0 sd=0 mult=1
XMb2 vgate nx vss vss sky130_fd_pr__nfet_01v8 L=0.5 W=100 nf=20 ad=14.5 as=15.95 pd=105.8 ps=116.38 nrd=0.0029 nrs=0.0029 sa=0
+ sb=0 sd=0 mult=1
XMb1 nx vout2 vgate vgate sky130_fd_pr__pfet_01v8_lvt L=0.5 W=50 nf=10 ad=7.25 as=8.7 pd=52.9 ps=63.48 nrd=0.0058 nrs=0.0058 sa=0
+ sb=0 sd=0 mult=1
XMsw nsw load_en vss vss sky130_fd_pr__nfet_01v8 L=0.5 W=30 nf=6 ad=4.35 as=5.8 pd=31.74 ps=42.32 nrd=0.00966666666666667
+ nrs=0.00966666666666667 sa=0 sb=0 sd=0 mult=1
XCM1 vout1 net3 sky130_fd_pr__cap_mim_m3_1 W=20 L=25 MF=11 m=11
XMb3 nx vbias vss vss sky130_fd_pr__nfet_01v8 L=1 W=5 nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0
+ mult=1
XMb4 pbias vbias vss vss sky130_fd_pr__nfet_01v8 L=1 W=10 nf=2 ad=1.45 as=2.9 pd=10.58 ps=21.16 nrd=0.029 nrs=0.029 sa=0 sb=0 sd=0
+ mult=1
XMb5 pbias pbias vdd vdd sky130_fd_pr__pfet_01v8 L=0.5 W=25 nf=5 ad=4.35 as=4.35 pd=31.74 ps=31.74 nrd=0.0116 nrs=0.0116 sa=0 sb=0
+ sd=0 mult=1
XMb6 vgate pbias vdd vdd sky130_fd_pr__pfet_01v8 L=0.5 W=250 nf=50 ad=36.25 as=37.7 pd=264.5 ps=275.08 nrd=0.00116 nrs=0.00116
+ sa=0 sb=0 sd=0 mult=1
XCM2 vout1 net3 sky130_fd_pr__cap_mim_m3_1 W=20 L=25 MF=11 m=11
XRload nsw vldo vss sky130_fd_pr__res_high_po_1p41 L=1.36 mult=1
XRbl vss vldo vss sky130_fd_pr__res_high_po_2p85 L=12.3 mult=1
XRf1 vfb fbtop_x vss sky130_fd_pr__res_xhigh_po_0p35 L=35 mult=1
XRf2 vss vfb vss sky130_fd_pr__res_xhigh_po_0p35 L=52.5 mult=1
XRZ net3 vout2 vss sky130_fd_pr__res_high_po_0p69 L=1.2 mult=1
**.ends
.ends
